### PR TITLE
[Merged by Bors] - feat: `WithVal v` and `WithVal w` are isomorphic as uniform spaces when `v` and `w` are equivalent valuations

### PR DESCRIPTION
**Pull request by smmercuri**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Hom/Ring.lean [hunk 1]
```diff
@@ -416,6 +416,14 @@ theorem symm_trans_self (e : α ≃+*o β) : e.symm.trans e = OrderRingIso.refl
 
 end LE
 
+variable {R S : Type*} [Mul R] [Add R] [Mul S] [Add S] [Preorder R] [Preorder S]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Hom/Ring.lean:433]: These variables are now globally in the file. Can you put all this change in a section, like the sections just above and just below this code?

**Comment by robin-carlier** [comment]
I am a bit out of my depth when it comes to the handling of valuations in mathlib, perhaps @kbuzzard or @pechersky could have a look?

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 2]
```diff
@@ -124,6 +158,57 @@ abbrev Completion := UniformSpace.Completion (WithVal v)
...
+  [LinearOrderedCommGroupWithZero Γ₀'] {v : Valuation R Γ₀} {w : Valuation R Γ₀'}
+
+/-- If two valuations `v` and `w` are equivalent then `WithVal v` is order-isomorphic
+to `WithVal w`. -/
+def IsEquiv.orderRingIso (h : v.IsEquiv w) :
+    WithVal v ≃+*o WithVal w where
+  __ := equivWithVal v w
+  map_le_map_iff' := by
+    intro a b
+    simp [h.symm (equiv v a), le_def]
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean]:
```suggestion
/-- If two valuations `v` and `w` are equivalent then `WithVal v` is order-isomorphic
to `WithVal w`. -/
def IsEquiv.orderRingIso (h : v.IsEquiv w) :
    WithVal v ≃+*o WithVal w where
  __ := equivWithVal v w
  map_le_map_iff' := h.symm ..
```

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 3]
```diff
@@ -124,6 +158,57 @@ abbrev Completion := UniformSpace.Completion (WithVal v)
...
+
+@[simp]
+theorem IsEquiv.orderRingIso_apply (h : v.IsEquiv w) (x : WithVal v) :
+    h.orderRingIso x = (equivWithVal v w) x := rfl
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean]: Are we sure that we want this to be the simpNF? I haven't worked with Valued at all but I would suppose that the simpNF _should_ be `(WithVal.equiv v).symm x : WithVal v` (which also suggests that maybe we should have flipped the direction of [WithVal.equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Valued/WithVal.html#WithVal.equiv))

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 4]
```diff
@@ -124,6 +158,57 @@ abbrev Completion := UniformSpace.Completion (WithVal v)
...
+
+@[simp]
+theorem IsEquiv.orderRingIso_symm_apply (h : v.IsEquiv w) (x : WithVal w) :
+    h.orderRingIso.symm x = (equivWithVal v w).symm x := rfl
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean:179]: Are we sure that we want this to be the simpNF? I haven't worked with Valued at all but I would suppose that the simpNF _should_ be `(WithVal.equiv v).symm x : WithVal v` (which also suggests that maybe we should have flipped the direction of [WithVal.equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Valued/WithVal.html#WithVal.equiv))

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 5]
```diff
@@ -124,6 +158,57 @@ abbrev Completion := UniformSpace.Completion (WithVal v)
...
+
+-- TODO: remove surjectivity when we have range bases for Valued's ValuativeRel #27314
+theorem IsEquiv.uniformContinuous_equivWithVal (hw : Function.Surjective w) (h : v.IsEquiv w) :
+    UniformContinuous (equivWithVal v w) := by
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean]: I'm not sure if we should make the following change, so I'm only making an optional comment here: we could relax `hw` to just say that the closure of the range of `w` is the whole group, (with suitable modifications because we're in a GroupWithZero). But actually thinking about it more maybe this would be a good direction because if/when #27314 lands then this new code would be adapted to the new topology (which is based on the closure as I described)

**Review by kckennylau — CHANGES_REQUESTED** [review]

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 5 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean]: My plan after those PRs land is to add a `IsValuativeTopology (WithVal w)` assumption and simply remove `hw` via [`ValuativeRel.valuation_surjective`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Valuation/ValuativeRel/Basic.html#ValuativeRel.valuation_surjective) and [`IsValuativeTopology.v_eq_valuation`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Valued/ValuativeRel.html#IsValuativeTopology.v_eq_valuation). Just need a suitable basis of `nhds 0` from the PR first. So I personally think we should just leave the hypothesis as it is.

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 4 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean:179]: Good point, added `[simps!]` to `WithVal.equivWithVal` so that the simpNF is now what you suggest, which simplifies the later proof further!

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 5 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean]: @smmercuri note that the "surjective" lemma you linked to is for fields, and for rings you still need to modify it to say that anything in the valuation group can be written as v(r1)/v(r2) for r1, r2 : R, which is why I suggested the change above.

Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean]: Yes, good point! I've relaxed this condition so that it matches [`ValuativeRel.exists_valuation_posSubmonoid_div_valuation_posSubmonoid_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Valuation/ValuativeRel/Basic.html#ValuativeRel.exists_valuation_posSubmonoid_div_valuation_posSubmonoid_eq)

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 6]
```diff
@@ -128,6 +155,56 @@ abbrev Completion := UniformSpace.Completion (WithVal v)
...
+  __ := equivWithVal v w
+  map_le_map_iff' := h.symm ..
+
+@[simp]
+theorem IsEquiv.orderRingIso_apply (h : v.IsEquiv w) (x : WithVal v) :
+    h.orderRingIso x = (equivWithVal v w) x := rfl
+
+@[simp]
+theorem IsEquiv.orderRingIso_symm_apply (h : v.IsEquiv w) (x : WithVal w) :
+    h.orderRingIso.symm x = (equivWithVal v w).symm x := rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean:179]: Can `@[simps]` generate these, if you at that attribute to the `def` above?

**Review by jcommelin — COMMENTED** [review]
LGTM, modulo one comment.

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 6 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean:179]: It doesn't, seems like `OrderRingIso` doesn't have the `apply` projection
